US06506779B1
2-Fluoro-4-hydrazino-benzenesulfonamide hydrochloride salt (Step 3)
To a stirred suspension of 4-Amino-2-fluoro-benzenesulfonamide (15.2 g, 80 mmol) in concentrated hydrochloric acid solution (180 ml) was slowly added NaNO2 (5.8 g, 84 mmol) in water (180 ml), while maintaining the internal temperature between −15° C. and −20° C. in a dry ice/acetonitrile bath. After the reaction mixture was stirred at −20° C. for 30 minutes, a solution of tin chloride (SnCl2) hydrate (90.3 g, 400 mmol) in concentrated hydrochloric acid solution (100 ml) was added dropwise, and the reaction mixture temperature was maintained between −50° C. and −10° C. with an ice/methanol bath. The stirring was continued at −10° C. for 1 hour and then at room temperature for 4 hours. The pH of the solution was adjusted to 8 by addition of 5 N NaOH solution at 0° C., and the precipitate was removed by filtration through celite. The aqueous layer was extracted with THF (3×600 ml), and the combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was dissolved in 10% methanolic HCl solution, followed by stirring at room temperature for 1 hour. The title compound was collected by filtration (12.5 g, 65%).

reactant | 4-Amino-2-fluoro-benzenesulfonamide | 80 mmol, 15.2 g | NC1=CC(=C(C=C1)S(=O)(=O)N)F | C6H7FN2O2S
reactant | NaNO2 | 84 mmol, 5.8 g | N(=O)[O-].[Na+]
reactant | tin chloride | 400 mmol, 90.3 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | hydrochloric acid | 180 ml | Cl | ClH
solvent | water | 180 ml | O | H2O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-Fluoro-4-hydrazino-benzenesulfonamide hydrochloride salt | Cl.FC1=C(C=CC(=C1)NN)S(=O)(=O)N | InChI=1S/C6H8FN3O2S.ClH/c7-5-3-4(10-8)1-2-6(5)13(9,11)12;/h1-3,10H,8H2,(H2,9,11,12);1H
